US08865899B2
Benzyl 4-(benzyloxy)-3-methoxybenzoate (135 g) was dissolved in dichloromethane (339 ml). Glacial acetic acid (175.5 g) was added and the mixture cooled to 10° C. Concentrated sulfuric acid (151.6 g) was added in a controlled manner maintaining the temperature of the reaction mixture below 25° C. Concentrated nitric acid (61.6 g) was then added in 15 minutes keeping the temperature of the reaction mixture below 25° C. The reaction mixture was then heated to 40° C. and stirred for 3 hours. The lower aqueous layer was removed and the organic layer was washed twice with water (2×168 ml). The organic layer was distilled to at atmospheric pressure to remove dichloromethane (186 ml). Isopropanol (339 ml) was added to the reaction mixture at 40° C. The reaction mixture was held at 40° C. for 15 minutes. The resulting suspension was then cooled to 20° C. within 30 minutes, then to 5° C. and held at this temperature for one hour. The product (benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate) was isolated by filtration, washed with isopropanol (336 ml) and dried at less than 25° C. Yield: 135.7 g, 89.6%; NMR Spectrum (CDCl3) 3.9 (s, 3H), 5.2 (s, 2H), 5.3 (s, 2H), 7.1 (s, 1H), 7.3-7.4 (m, 10H), 7.5 (s, 1H); Mass Spectrum (M+H)+=394.1.

reactant | Benzyl 4-(benzyloxy)-3-methoxybenzoate | 135 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)OC | C22H20O4
reactant | acetic acid | 175.5 g | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 151.6 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 61.6 g | [N+](=O)(O)[O-] | HNO3
solvent | dichloromethane | 339 ml | ClCCl | CH2Cl2
product | benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1OC)[N+](=O)[O-] | C22H19NO6
